US05204011
Preparation of 2,2-Bis[4-(benzenesulfonyloxy)phenyl]-1,1,1,3,3,3-hexafluoropropane
An oven-dried 100 ml 3-necked flask is equipped with a magnetic stirring bar, a reflux condenser carrying a CaCl2 -Drierite drying tube, and a heating mantle, and is charged with 4,4'-(hexafluoroisopropylidene)diphenol (Aldrich) (5.45 grams, 16.2 mmol), 4-dimethylaminopyridine (0.4 gram, 3.3 mmol), and anhydrous Et3N (40 ml). The solution is stirred and treated slowly with benzenesulfonyl chloride (4.7 ml, 36.8 mmol) via syringe. The resulting mixture is heated at reflux for 9 hours. Workup consists of partitioning the reaction mixture between CH2Cl2 (100 ml) and a mixture of H2O (150 ml) and concentrated HCl (40 ml), washing the organic phase successively with 100 ml portions of H2O, 5 percent NaOH, H2O, and saturated brine, drying (MgSO4), filtration and concentration. This gives 10.6 grams of a reddish oily residue. TLC analysis on silica gel shows one main component (Rf =0.54; CH2Cl2). Chromatography on a column packed with flash-grade silica gel (3"×1" i.d.), eluting with CH2Cl2, gives 9.32 grams of a faintly yellowish oil. which solidifies on standing. Recrystallization from EtOAc-MeOH-H2O (20 ml:100 ml:10 ml)affords 8.91 grams crystalline solid. m.p. 133° C. to 134° C.

reactant | 4,4'-(hexafluoroisopropylidene)diphenol | 16.2 mmol, 5.45 grams | FC(C(C(F)(F)F)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)(F)F | C15H10F6O2
reactant | benzenesulfonyl chloride | 36.8 mmol, 4.7 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | 4-dimethylaminopyridine | 3.3 mmol, 0.4 gram | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Et3N | 40 ml | CCN(CC)CC | C6H15N
product | 2,2-Bis[4-(benzenesulfonyloxy)phenyl]-1,1,1,3,3,3-hexafluoropropane | 8.91 grams | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1 | C27H18F6O6S2
